US06576641B2
1-Butyl-4-(1-pyrolidinyl)-1,2,3,6-tetrahydropyridine:
A mixture of 1-butyl4-piperidone (10.5 g, 67.6 mmol), pyrrolidine (6.73 g, 94.7 mmol), amberlyst-15 (200 mg) and toluene (100 ml) was stirred at reflux overnight, with a Dean and Stark water collector connected. The crude mixture was co-evaporated with toluene twice (100 ml). The product was isolated as an oil in quantitative yield.

reactant | 1-butyl4-piperidone | 67.6 mmol, 10.5 g | C(CCC)N1CCC(CC1)=O | C9H17NO
reactant | pyrrolidine | 94.7 mmol, 6.73 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Butyl-4-(1-pyrolidinyl)-1,2,3,6-tetrahydropyridine | quantitative yield | C(CCC)N1CCC(=CC1)N1CCCC1 | C13H24N2
